US07919628B2
To 0.2 g of 2-trifluoromethyl-pyrimidine-5-carboxylic acid 2 mL of diethyl ether were added, and the solution was cooled in ice-water bath to 0° C. Then 0.126 mL of N-methylmorpholine were added, followed by 0.135 mL of isobutyl-chloroformate. The reaction was left stirring for one hour at room temperature. The yellow solid formed was filtered and washed with diethyl ether. To the filtrate, 0.115 g (3.12 mmol) of sodium borohydride was then added at 0° C. and left stirring at that temperature for one hour. 5 mL of a saturated aqueous solution of sodium and potassium tartrate were then added and the mixture was extracted twice with ethyl acetate, dried with magnesium sulphate, filtered and concentrated to afford 0.09 g of (2-Trifluoromethyl-pyrimidin-5-yl)-methanol as an oil, which was used without further purification.

reactant | 2-trifluoromethyl-pyrimidine-5-carboxylic acid | 2 mL, 0.2 g | FC(C1=NC=C(C=N1)C(=O)O)(F)F | C6H3F3N2O2
reactant | N-methylmorpholine | 0.126 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl-chloroformate | 0.135 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | 3.12 mmol, 0.115 g | [BH4-].[Na+]
reactant | sodium | [Na] | Na
reactant | potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-Trifluoromethyl-pyrimidin-5-yl)-methanol | 0.09 g | FC(C1=NC=C(C=N1)CO)(F)F | C6H5F3N2O
